US06100272
4'-Amino-2'-trifluoromethylbiphenyl-4-carboxylic acid
A stirred solution of 5-amino-2-bromobenzotrifluoride (2.5 g, 0.01 mol) in DME (60 ml) and water (60 ml) was treated with 4-boronobenzoic acid (1.65 g, 0.01 mol) and Na2CO3 (4.2 g, 0.04 mol). The mixture was degassed with argon for 15 mins, treated with tetrakis (triphenylphosphine) palladium (O) (230 mg, 0.2 mmol) and heated at reflux under argon for 18 hrs. The mixture was concentrated in vacuo to approx. 50% volume and the aqueous residue treated with 10% aqueous Na2CO3 solution and washed with ethyl acetate. The aqueous layer was separated, acidified with 5M HCl and concentrated in vacuo to afford an off-white solid containing the title compound. This was used in the next step without further purification.

reactant | 5-amino-2-bromobenzotrifluoride | 0.01 mol, 2.5 g | NC=1C=CC(=C(C1)C(F)(F)F)Br | C7H5BrF3N
reactant | 4-boronobenzoic acid | 0.01 mol, 1.65 g | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
reactant | Na2CO3 | 0.04 mol, 4.2 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 60 ml | COCCOC | C4H10O2
solvent | water | 60 ml | O | H2O
catalyst | tetrakis (triphenylphosphine) palladium | 0.2 mmol, 230 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4'-Amino-2'-trifluoromethylbiphenyl-4-carboxylic acid | NC1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)O)C(F)(F)F | C14H10F3NO2
